US06838476B1
4-Methylsulfinylaniline
Following a similar procedure to that described in reference example 1, but starting from 4-methylthioaniline and using 1 equivalent of m-chloroperbenzoic acid, the title compound of the example was obtained as a white solid (80% yield).

reactant | 4-methylthioaniline | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | m-chloroperbenzoic acid | 1 equivalent | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 4-Methylsulfinylaniline | CS(=O)C1=CC=C(N)C=C1 | C7H9NOS
